US08003647B2
4-(3-cyano-6-fluoro-5-hydroxyindol-1-yl)benzoic acid
To a solution of 4-(3-cyano-6-fluoro-5-methoxyindol-1-yl)benzoic acid ethyl ester (1.2 g) in dichloromethane (20 mL) was added boron tribromide (1.0 mol/L dichloromethane solution) (10 mL) in a dropwise manner under ice cooling, and this mixture was stirred at room temperature for 12 hours. This reaction mixture was poured into water, and this mixture was extracted with ethyl acetate, concentrated under reduced pressure to give the title compound (0.44 g).

reactant | 4-(3-cyano-6-fluoro-5-methoxyindol-1-yl)benzoic acid ethyl ester | 1.2 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=C(C=C12)F)OC)C#N)=O | C19H15FN2O3
reactant | boron tribromide | 1.0 mol/L, 10 mL | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(3-cyano-6-fluoro-5-hydroxyindol-1-yl)benzoic acid | 0.44 g | C(#N)C1=CN(C2=CC(=C(C=C12)O)F)C1=CC=C(C(=O)O)C=C1 | C16H9FN2O3
